US05175166
2-Amino-3,4,5,6-tetrahydropyridine-4-carboxylic acid HCL
2-Aminopyridine-4-carboxylic acid (Farmaco. Ed. Sci. 1958, 13, 485; 1.38 g, 10 mmol) was dissolved in 90% methanol (210 ml) and conc. HCl(4.9 ml, 60 mmol) was added. The solution was hydrogenated over PtO2 (200 mg) in a Parr shaker apparatus at room temperature and 29 psig for 2 hours. Filtration and evaporation gave 1.57 g (88%) crude white crystals identified as the product by 300 MHz nmr and ir 1728 cm-1.

reactant | 2-Aminopyridine-4-carboxylic acid | 10 mmol, 1.38 g | NC1=NC=CC(=C1)C(=O)O | C6H6N2O2
reactant | HCl | 60 mmol, 4.9 ml | Cl | ClH
solvent | methanol | 210 ml | CO | CH4O
catalyst | PtO2 | 200 mg | O=[Pt]=O
product | 2-Amino-3,4,5,6-tetrahydropyridine-4-carboxylic acid HCL | 1.57 g, 88% | Cl.NC1=NCCC(C1)C(=O)O | InChI=1S/C6H10N2O2.ClH/c7-5-3-4(6(9)10)1-2-8-5;/h4H,1-3H2,(H2,7,8)(H,9,10);1H
